US08426587B2
Procedure A: Preparation of (E)-tert-butyl 3-fluoro-4-phenoxybut-2-enylcarbamate
To a stirred solution of (E)-tert-butyl 3-fluoro-4-hydroxybut-2-enylcarbamate (0.044 g, 0.21 mmol), triphenylphosphine (0.079 g, 0.3 mmol) and phenol (0.028 g, 0.3 mmol) in dry THF (2 mL) at 0° C. under nitrogen was added diisopropyl azodicarboxylate (59 μL, 0.3 mmol) dropwise. The reaction mixture was allowed to warm to room temperature and stirred for 16 hours. Silica (˜1 g) was then added to the reaction mixture and the solvent removed under reduced pressure. The resultant solid was purified by flash chromatography eluting in 15% EtOAc in n-hexane to afford a 1:1 mixture of the title compound: phenol (0.036 g). This mixture was taken up into diethyl ether (10 mL), washed with 2 M NaOH solution (5 mL) and brine (5 mL), dried over MgSO4, filtered and the solvent removed under reduced pressure to afford (E)-tert-butyl 3-fluoro-4-phenoxybut-2-enylcarbamate (0.026 g, 43%) as a clear oil; 1H-NMR (200 MHz, CDCl3): δppm: 1.43 (9H, s), 3.78 (2H, t, J 7.2 Hz), 4.53 (1H, br s), 4.68 (2H, d, J 19.0 Hz), 5.43 (1H, dt, J 18.8, 8.3 Hz), 6.61-6.79 (3H, m), 7.17-7.31 (2H, m).

reactant | (E)-tert-butyl 3-fluoro-4-hydroxybut-2-enylcarbamate | 0.21 mmol, 0.044 g | F/C(=C/CNC(OC(C)(C)C)=O)/CO | C9H16FNO3
reactant | triphenylphosphine | 0.3 mmol, 0.079 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 0.3 mmol, 0.028 g | C1(=CC=CC=C1)O | C6H6O
reactant | diisopropyl azodicarboxylate | 0.3 mmol, 59 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (E)-tert-butyl 3-fluoro-4-phenoxybut-2-enylcarbamate | F/C(=C/CNC(OC(C)(C)C)=O)/COC1=CC=CC=C1 | C15H20FNO3
